US04761410
A mixture of benzhydryl 7-[2-(2-tritylaminothiazol-4-yl)-2-difluoromethoxyiminoacetamido]-3-(1-methyl-1-pyrrolidiniomethyl)-3-cephem-4-carboxylate-1-oxide iodide (syn isomer) (1.45 g) and acetonitrile (14 ml) was stirred under cooling in an ice-bath, and N,N-dimethylaniline (490 mg) and phosphorus trichloride (555 mg) were added thereto. The mixture was stirred for one hour under cooling in an ice-bath, and then diisopropyl ether was added to the reaction mixture. The separated oil was triturated with diisopropyl ether to give benzhydryl 7-[2-(2-tritylaminothiazol-4-yl)-2-difluoromethoxyiminoacetamido]-3-(1-methyl-1-pyrrolidiniomethyl)-3-cephem-4-carboxylate iodide. This compound was dissolved in a solution of tetrahydrofuran (54 ml) and water (3.6 ml). The solution was subjected to column chromatography on Amberlite IRA-400 (CF3COO⃝ form) and the elution was carried out with a solution of water and tetrahydrofuran (1:15). The fractions containing the object compound were collected and evaporated. The residue was triturated with diisopropyl ether to give benzhydryl 7-[ 2-(2-tritylaminothiazol-4-yl)-2-difluoromethoxyiminoacetamido]-3-(1-methyl-1-pyrrolidiniomethyl)-3-cephem-4-carboxylate trifluoroacetate (syn isomer) (1.30 g).

reactant | benzhydryl 7-[2-(2-tritylaminothiazol-4-yl)-2-difluoromethoxyiminoacetamido]-3-(1-methyl-1-pyrrolidiniomethyl)-3-cephem-4-carboxylate-1-oxide iodide | 1.45 g | [I-].C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2=O)C([NH+]2CCCC2)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOC(F)F
reactant | N,N-dimethylaniline | 490 mg | CN(C1=CC=CC=C1)C | C8H11N
reactant | phosphorus trichloride | 555 mg | P(Cl)(Cl)Cl | Cl3P
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | acetonitrile | 14 ml | C(C)#N | C2H3N
product | benzhydryl 7-[2-(2-tritylaminothiazol-4-yl)-2-difluoromethoxyiminoacetamido]-3-(1-methyl-1-pyrrolidiniomethyl)-3-cephem-4-carboxylate iodide | [I-].C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C([NH+]2CCCC2)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOC(F)F | InChI=1S/C51H46F2N6O5S2.HI/c1-33(58-29-17-18-30-58)39-31-65-47-42(46(61)59(47)43(39)48(62)63-44(34-19-7-2-8-20-34)35-21-9-3-10-22-35)55-45(60)41(57-64-49(52)53)40-32-66-50(54-40)56-51(36-23-11-4-12-24-36,37-25-13-5-14-26-37)38-27-15-6-16-28-38;/h2-16,19-28,32-33,42,44,47,49H,17-18,29-31H2,1H3,(H,54,56)(H,55,60);1H/t33?,42?,47-;/m1./s1
